US04064260
2,3-Dihydro-5,6-bis(p-methoxyphenyl)imidazo[2,1-b]thiazole
A mixture of 46.8 g (0.15 mole) of 4,5-bis(p-methoxyphenyl)-2-mercaptoimidazole, 55.5 g (0.15 mole) of ethylene glycol di-p-toluenesulfonate [Helv. Chim Acta 29 1675 (1946); Chem Abs. 41 1641 g] and 45.5 g (0.33 mole) potassium carbonate in 500 ml dimethylformamide was stirred at room temperature for 3 days. The mixture was poured into ice water and the precipitated product was collected and washed with water. Recrystallization from 1200 ml ethanol gave 31.3 g (61%) of product, m.p. 155°-8°.

reactant | 4,5-bis(p-methoxyphenyl)-2-mercaptoimidazole | 0.15 mole, 46.8 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | ethylene glycol di-p-toluenesulfonate | 0.15 mole, 55.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O6S2
reactant | potassium carbonate | 0.33 mole, 45.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-5,6-bis(p-methoxyphenyl)imidazo[2,1-b]thiazole | 31.3 g, 61% | COC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)OC | C19H18N2O2S
